US05773428
2-(Ethoxy) (hydroxymethyl)phosphinoylmethyl-4-methylpentanoic acid ethyl ester (5 g) was dissolved in 20 mL of CH2Cl2 and cooled to -20° C. (in duplicate). Methanesulfonyl chloride (1.5 mL) and triethylamine (3.0 mL) were added to solution dropwise. After 15 minutes the bath was removed and the reaction left at room temperature for 3% hours. Each solution was then washed with 10 mL cold 2% HCl, 10 mL NaHCO3 (sat), 10 mL brine, dried with MgSO4, filtered and evaporated to yield 12.8 g (combined yield) of 2-(ethoxy) (methane-sulfonyloxymethyl)phosphinoylmethyl-4-methylpentanoic acid ethyl ester.

reactant | 2-(Ethoxy) (hydroxymethyl)phosphinoylmethyl-4-methylpentanoic acid ethyl ester | 5 g | C(C)OC(C(CC(C)C)(OCC)CP(=O)CO)=O | C12H25O5P
reactant | Methanesulfonyl chloride | 1.5 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.0 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(ethoxy) (methane-sulfonyloxymethyl)phosphinoylmethyl-4-methylpentanoic acid ethyl ester | 12.8 g | C(C)OC(C(CC(C)C)(OCC)CP(=O)COS(=O)(=O)C)=O | C13H27O7PS
